US08048887B2
2-(4-Fluorophenyl)-5-(5-(1-(N-hydroxycarbamimidoyl)cyclopropylcarbamoyl)-2-methylphenyl)-N-methylbenzofuran-3-carboxamide
To a mixture of 5-(5-(1-cyanocyclopropylcarbamoyl)-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (43.5 mg, 0.093 mmol) in ethanol (1.5 mL) at r.t. under N2 was added hydroxylamine hydrochloride (12.93 mg, 0.186 mmol), followed by Et3N (0.039 mL, 0.279 mmol). The mixture was stirred at reflux (115° C.) for about 4 hours. The mixture was cooled to r.t. and evaporated. The residue was used for the next step without further purification. LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=501.13, HPLC Rt=1.385 min.

reactant | 5-(5-(1-cyanocyclopropylcarbamoyl)-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.093 mmol, 43.5 mg | C(#N)C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C | C28H22FN3O3
reactant | hydroxylamine hydrochloride | 0.186 mmol, 12.93 mg | Cl.NO
reactant | Et3N | 0.279 mmol, 0.039 mL | CCN(CC)CC | C6H15N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2-(4-Fluorophenyl)-5-(5-(1-(N-hydroxycarbamimidoyl)cyclopropylcarbamoyl)-2-methylphenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C(NO)=N)=O)C | C28H25FN4O4
